US05082849
1.8 g of 2-(4-hydroxyphenoxy)methylquinoline, 2.2 g of 8-bromomethyl-2-carboethoxy-4-oxo-4H-1-benzopyran and 1.0 g of potassium carbonate are combined in 100 ml of acetone and refluxed for 18 hours. The mixture is cooled, diluted with ethylacetate and filtered. The filtrate is concentrated and the crude product purified by flash chromatography on silica gel in 5% ethanol in chloroform/hexane (1:1) to give 0.96 g 2-carboethoxy-8-(4- (quinolin-2-yl-methoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran: m.p. 124°-27° C.

reactant | 2-(4-hydroxyphenoxy)methylquinoline | 1.8 g | OC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H13NO2
reactant | 8-bromomethyl-2-carboethoxy-4-oxo-4H-1-benzopyran | 2.2 g | BrCC1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C13H11BrO4
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-carboethoxy-8-(4- (quinolin-2-yl-methoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran | 0.96 g | C(=O)(OCC)C=1OC2=C(C(C1)=O)C=CC=C2COC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C29H23NO6
